US06849632B2
2-(2,4-dichlorophenyl)-5-methoxybenzoxazole (0.5 g, 1.7 mmol) was dissolved in 25 mL of dichloromethane. To the solution was added BBr3 (8 mmol) and the mixture was stirred at room temperature for 48 hours. The mixture was then diluted with 25 mL dichloromethane, and washed sequentially with saturated NaHCO3 (2×25 mL) and brine. The organic layer was separated, dried over MgSO4 and filtered. The solvent was removed, to provide 2-(2,4-dichlorophenyl)benzoxazol-5-ol, a compound of formula (g), which was purified using flash chromatography.

reactant | 2-(2,4-dichlorophenyl)-5-methoxybenzoxazole | 1.7 mmol, 0.5 g | ClC1=C(C=CC(=C1)Cl)C=1OC2=C(N1)C=C(C=C2)OC | C14H9Cl2NO2
reactant | BBr3 | 8 mmol | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2-(2,4-dichlorophenyl)benzoxazol-5-ol | ClC1=C(C=CC(=C1)Cl)C=1OC2=C(N1)C=C(C=C2)O | C13H7Cl2NO2
